US04730006
3,7-diphthalimido-6,6-difluoro-1,8-nonadiene (41)
A mixture of 3-hydroxy-6,6-difluoro-7-phthalimido-1,8-nonadiene (148 mg, 0.46 mmoles), phthalimide (73.5 mg, 0.5 mmoles), triphenylphosphine (131.5 mg, 0.5 mmoles) and diethyl azodicarboxylate (73 l, 0.6 mmoles) in tetrahydrofuran (5 ml) is kept under nitrogen at 25° C. for 20 hours. After concentration under reduced pressure, the title compound is obtained after purification by chromatography on silica (dichloromethane, RF: 0.43): 95 mg (46%).

reactant | 3-hydroxy-6,6-difluoro-7-phthalimido-1,8-nonadiene | 0.46 mmoles, 148 mg | OC(C=C)CCC(C(C=C)N1C(C=2C(C1=O)=CC=CC2)=O)(F)F | C17H17F2NO3
reactant | phthalimide | 0.5 mmoles, 73.5 mg | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | triphenylphosphine | 0.5 mmoles, 131.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | diethyl azodicarboxylate | 0.6 mmoles, 73 l | N(=NC(=O)OCC)C(=O)OCC | C6H10N2O4
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 3,7-diphthalimido-6,6-difluoro-1,8-nonadiene | C1(C=2C(C(N1C(C=C)CCC(C(C=C)N1C(C=3C(C1=O)=CC=CC3)=O)(F)F)=O)=CC=CC2)=O | C25H20F2N2O4
